US04689264
Preparation of a Control Dispersion B without Acrylamido-glycolic Acid Monomer Units
Into a polymerization vessel equipped with a reflux condenser, stirrer rod and thermometer, is added an emulsion consisting of 44 parts by weight of methyl methacrylate, 56 parts by weight of n-butyl-acrylate, 61.5 parts by weight of completely deionized water, 1.5 parts by weight of the sodium salt of a sulfated additive product of tri-isobutyl phenol and 7 moles of ethylene oxide, and of 0.25 parts by weight of ammonium peroxydisulfate over the course of 4 hours, with stirring, to a solution warmed to 80° C. and consisting of 0.04 parts by weight of ammonium peroxydisulfate and 0.02 parts by weight orf the abovementioned emulsifiers in 40 parts by weight of completely deionized water. Subsequently, the temperature is maintained at 80° C. for an additional 2 hours. A stable, coagulate-free dispersion having a solids content of about 50% is obtained.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-butyl-acrylate | C(CCC)OC(C=C)=O | C7H12O2
reactant | sodium | [Na] | Na
reactant | tri-isobutyl phenol | C(C(C)C)C1=C(C(=C(C=C1)O)CC(C)C)CC(C)C | C18H30O
reactant | ethylene oxide | 7 moles | C1CO1 | C2H4O
reactant | ammonium peroxydisulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | O | H2O
product | Acrylamido-glycolic Acid | C(C=C)(=O)NC(C(=O)O)O | C5H7NO4
